US06700001B2
Treatment of [5-(benzyloxy)quinolin-6-yl]methanol with carbontetrabromide and triphenylphosphine in dichloromethane and subsequent treatment with allyl magnesiumbromide in tetrahydrofu ran following the procedure described for Example 1, step 1 provides 5-(benzyloxy)-6-but-3-enylquinoline.

reactant | [5-(benzyloxy)quinolin-6-yl]methanol | C(C1=CC=CC=C1)OC1=C2C=CC=NC2=CC=C1CO | C17H15NO2
reactant | carbontetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | allyl magnesiumbromide | C(C=C)[Mg]Br
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofu ran | O1CCCC1 | C4H8O
product | 5-(benzyloxy)-6-but-3-enylquinoline | C(C1=CC=CC=C1)OC1=C2C=CC=NC2=CC=C1CCC=C | C20H19NO
